US08633173B2
[3-(2-Methanesulfonyl-ethyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]-[8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-amine was prepared from [8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-amine (0.200 g, 0.441 mmol) and 1-chloro-2-methanesulfonyl-ethane (0.126 g, 0.882 mmol) in a manner analogous to Example 320b to give product (0.150 g, 61%). MP=194-196° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.52 (s, 1H), 8.80 (d, 1H), 7.95 (s, 1H), 7.82 (d, 1H), 7.62 (d, 1H), 7.40 (m, 3H), 7.08 (t, 1H), 7.00 (d, 1H), 3.85 (s, 3H), 3.28 (m, 2H), 3.05 (s, 3H), 2.85 (m, 2H), 2.75 (m, 4H), 2.60 (m, 4H): MS=560 (MH)+.

reactant | [8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-amine | 0.441 mmol, 0.200 g | COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCNCC1)C=C2 | C24H22F3N5O
reactant | 1-chloro-2-methanesulfonyl-ethane | 0.882 mmol, 0.126 g | ClCCS(=O)(=O)C | C3H7ClO2S
product | [3-(2-Methanesulfonyl-ethyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]-[8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-amine | CS(=O)(=O)CCN1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)OC)=N2 | C27H28F3N5O3S
